### PR TITLE
[Merged by Bors] - feat(Order/Interval/Set/Basic): use `to_dual`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR tags basic theorems about `Ioo`, `Ioc`, `Ico` and `Icc` with `to_dual`. This is the other half of #33964.

Notes:
- I decided to add the theorems `Ico_subset_Ioo` and `Icc_subset_Ioc`, because they were missing.
- For some proofs, the cast insertion heuristic failed, and I had to modify the proof slightly in order to make it work with `to_dual`. The two kinds of fixes were replacing `fun ⟨hx₁, hx₁⟩ ↦` with `fun hx ↦` and then using `hx.1` and `hx.2`, and inserting an explicit rewrite using `mem_Ioo` in order to eliminate the defEq abuse. I should investigate how to fix this, but that shouldn't block this PR.
- There were some theorems that hold by `rfl`, but their dual does not. This confused the `@[defEq]` attribute, because we were erroneously setting it for these dual theorems. I've modified it so that it will first check if the attribute is applicable.
- `left_notMem_Ioc` and `left_notMem_Ioo` used to have explicit arguments. I made these implicit which lines up with their dual version, and their `Finset` counterparts.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 1]
```diff
@@ -841,59 +687,44 @@ theorem Iic_prod_Iic (a : α) (b : β) : Iic a ×ˢ Iic b = Iic (a, b) :=
...
-instance : NoMaxOrder (Set.Iio x) :=
-  ⟨fun ⟨a, ha⟩ => by
-    rcases exists_between ha with ⟨b, hb₁, hb₂⟩
-    exact ⟨⟨b, hb₂⟩, hb₁⟩⟩
-
 end Dense
 
 /-! ### Intervals in `Prop` -/
 
-namespace Set
```
Comment (vihdzp) [inline Mathlib/Order/Interval/Set/Basic.lean:895]: Reviewer note: the four above instances are now in the `Set` namespace, but that shouldn't be a breaking change.

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 2]
```diff
@@ -841,59 +687,44 @@ theorem Iic_prod_Iic (a : α) (b : β) : Iic a ×ˢ Iic b = Iic (a, b) :=
...
-end Set
-
 /-! ### Lemmas about intervals in dense orders -/
 
 section Dense
 
 variable (α) [Preorder α] [DenselyOrdered α] {x y : α}
 
+@[to_dual] -- TODO: `to_dual` only works with the `mem_Ioo.mpr` in the proof.
 instance : NoMinOrder (Set.Ioo x y) :=
```
Comment (vihdzp) [inline Mathlib/Order/Interval/Set/Basic.lean]: I think you can omit the `Set` namespace here

**Review by vihdzp — APPROVED** [review]
LGTM, just one thing.

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 3]
```diff
@@ -59,6 +59,7 @@ instance decidableMemIio [Decidable (x < b)] : Decidable (x ∈ Iio b) := by ass
 @[to_dual]
 instance decidableMemIic [Decidable (x ≤ b)] : Decidable (x ∈ Iic b) := by assumption
 
+-- TODO: these instances are awkward for `to_dual`
```
Comment (Vierkantor) [inline Mathlib/Order/Interval/Set/Basic.lean]: Could you clarify this comment a bit: what actually happens when you write `@[to_dual]` (or `@[to_dual existing]`)?

**Review by Vierkantor — APPROVED** [review]
The changes look good to me, one small remark about the comments.

bors d+

File: Mathlib/Order/Interval/Set/Basic.lean
Comment (JovanGerb) [inline Mathlib/Order/Interval/Set/Basic.lean]:
```suggestion
@[to_dual self (reorder := a b, 6 7)]
instance decidableMemIoo [Decidable (a < x)] [Decidable (x < b)] : Decidable (x ∈ Ioo a b) :=
  instDecidableAnd

instance decidableMemIco [Decidable (a ≤ x)] [Decidable (x < b)] : Decidable (x ∈ Ico a b) :=
  instDecidableAnd

@[to_dual self (reorder := a b, 6 7)]
instance decidableMemIcc [Decidable (a ≤ x)] [Decidable (x ≤ b)] : Decidable (x ∈ Icc a b) :=
  instDecidableAnd

@[to_dual existing (reorder := a b, 6 7)]
instance decidableMemIoc [Decidable (a < x)] [Decidable (x ≤ b)] : Decidable (x ∈ Ioc a b) :=
  instDecidableAnd
```

The awkward part is the fact that we need to reorder the sides of the `And` in order to dualize these theorems. A neat solution is to instead require decidability on the two bounds separately. I can't imagine a situation where the bounds by themselves aren't decidable but together they are.
